US05747499
(4) p-[N-((6RS)-2-Methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoic acid
A mixture of N-{p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoyl}-L-glutamic acid (6 g), carboxypeptidase G2 (2000 units) and tris buffer [prepared by mixing 2-amino-2-hydroxymethyl-1,3-propanediol (12.11 g), zinc chloride (0.035 g) and distilled water (950 ml), by adjusting the basicity of the mixture to pH 7.3 by the addition of 2N aqueous hydrochloric acid and by adding sufficient distilled water to give a final volume of 1 L; 750 ml] was stirred and heated to 37° C. for 30 hours. A second portion of carboxypeptidase G2 (2000 units) was added and the mixture was heated to 37° C. for a further 24 hours. The mixture was cooled to 0° C. and acidified to pH 4 by the addition of glacial acetic acid. The precipitate was isolated, washed with water and dried under vacuum. There was thus obtained p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[a]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoic acid as a solid (4 g), m.p. 264° C.;

reactant | N-{p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoyl}-L-glutamic acid | 6 g | CC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C3=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C3 | C27H26N4O6
reactant | 2-amino-2-hydroxymethyl-1,3-propanediol | 12.11 g | NC(CO)(CO)CO | C4H11NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 0.035 g | [Cl-].[Zn+2].[Cl-]
product | p-[N-((6RS)-2-Methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoic acid | CC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C3=CC=C(C(=O)O)C=C3 | C22H19N3O3
